US07071175B1
A solution of diethyl malonate (0.704 mL, 4.64 mmol) in DMF (2 mL) was added dropwise to a suspention of NaH (200 mg, 4.64 mmol, 55% in mineral oil) in DMF (4 mL) at 0° C. under argon. The reaction mixture was stirred for 30 min and a solution of 5-bromomethyl-2-[N,N-bis(tert-butoxycarbonyl)amino]-pyrimidin (1.5 g, 3.86 mmol) in DMF (4 mL) was added dropwise. The mixture was stirred at room temperature for 3 h. EtOAc was added and the solution was washed with water and brine, dried and concentrated under reduced pressure. Flash chromatography (heptane/EtOAc, 3:2) gave 2-(2-[N,N-bis(tert-butoxycarbonyl)amino]-pyrimidin-5-ylmethyl)-malonic acid diethyl ester (0.87 g, 40%).

reactant | diethyl malonate | 4.64 mmol, 0.704 mL | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | NaH | 4.64 mmol, 200 mg | [H-].[Na+]
reactant | 5-bromomethyl-2-[N,N-bis(tert-butoxycarbonyl)amino]-pyrimidin | 3.86 mmol, 1.5 g | BrCC=1C=NC(=NC1)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C15H22BrN3O4
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 2-(2-[N,N-bis(tert-butoxycarbonyl)amino]-pyrimidin-5-ylmethyl)-malonic acid diethyl ester | 0.87 g, 40% | C(C)OC(C(C(=O)OCC)CC=1C=NC(=NC1)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)=O | C22H33N3O8
